US06548538B2
1,1-Dimethylethyl 2-[4-[[(2-methoxyethyl)[2-[[4-(1-methylethyl)-2-(trifluoro-methyl)phenyl]amino]-2-oxoethyl]amino]methyl]phenoxy]-2-methyl-propionate
0.533 g (1.65 mmol) of tert-butyl 2-(4-{[(2-methoxyethyl)amino]methyl}phenoxy)-2-methylpropanoate (Example III-33) is initially charged in 6 ml of dimethylformamide. At room temperature, 0.588 g (1.81 mmol) of 2-bromo-N-[4-isopropyl-2-(trifluoromethyl)phenyl]acetamide (Example III-17) and 0.152 g (1.81 mmol) of sodium bicarbonate are added. The mixture is set at 90° C. for 2 hours. The reaction mixture is then allowed to cool, and water is added. The mixture is extracted once with ethyl acetate and the organic phase is washed three times with water and once with saturated sodium chloride solution. The organic phase is dried over sodium sulphate and freed from the solvent under reduced pressure. The residue is purified chromatographically on silica gel (cyclohexane/ethyl acetate 4:1) and the product is then dried under reduced pressure. This gives 0.885 g (95% of theory) of the title compound.

reactant | tert-butyl 2-(4-{[(2-methoxyethyl)amino]methyl}phenoxy)-2-methylpropanoate | 1.65 mmol, 0.533 g | COCCNCC1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1 | C18H29NO4
reactant | 2-bromo-N-[4-isopropyl-2-(trifluoromethyl)phenyl]acetamide | 1.81 mmol, 0.588 g | BrCC(=O)NC1=C(C=C(C=C1)C(C)C)C(F)(F)F | C12H13BrF3NO
reactant | sodium bicarbonate | 1.81 mmol, 0.152 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 2-[4-[[(2-methoxyethyl)[2-[[4-(1-methylethyl)-2-(trifluoro-methyl)phenyl]amino]-2-oxoethyl]amino]methyl]phenoxy]-2-methyl-propionate | COCCN(CC(=O)NC1=C(C=C(C=C1)C(C)C)C(F)(F)F)CC1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1 | C30H41F3N2O5
